US04677104
4-(1-Piperazinyl)thieno[3,2-c]pyridine (IIIc)
A mixture of 4-chlorothieno[3,2-c]pyridine (22.7 g, 0.13 mole) and piperazine (57.7 g, 0.67 mole) were heated in a bomb with a minimum amount of ethanol (50 mL) at 120° for 24 hours. The reaction was cooled, partitioned between dichloromethane and water, and the organic layer was isolated, dried (MgSO4), filtered, and concentrated in vacuo to an oil. Flash chromatography (methylene chloride-10% methanol-1% ammonium hydroxide) of this material gave 16 g (54%) of a golden oil. Treatment of an ethanol solution of the oil with ethanolic HCl followed by recrystallization from ethanol gave the hydrochloride salt as off-white crystals, m.p. 275°-283°.

reactant | 4-chlorothieno[3,2-c]pyridine | 0.13 mole, 22.7 g | ClC1=NC=CC2=C1C=CS2 | C7H4ClNS
reactant | piperazine | 0.67 mole, 57.7 g | N1CCNCC1 | C4H10N2
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 4-(1-Piperazinyl)thieno[3,2-c]pyridine | 16 g, 54% | N1(CCNCC1)C1=NC=CC2=C1C=CS2 | C11H13N3S
